US06767909B2
20 mg (0.11 mmol) 1-ethyl-2-hydroxymethylbenzimidazole was dissolved in 2 ml dichloromethane. Thionyl chloride (24 μl, 0.33 mmol) was diluted 20 times with dichloromethane and the solution was added to the reaction mixture. Reaction mixture was stirred at room temperature for two hours, evaporated to dryness and washed with water to yield 1-ethyl-2-chloromethylbenzimidazole as pale yellow crystals, 36 mg (95%).

reactant | 1-ethyl-2-hydroxymethylbenzimidazole | 0.11 mmol, 20 mg | C(C)N1C(=NC2=C1C=CC=C2)CO | C10H12N2O
reactant | Thionyl chloride | 0.33 mmol, 24 μl | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-ethyl-2-chloromethylbenzimidazole | C(C)N1C(=NC2=C1C=CC=C2)CCl | C10H11ClN2
